US06602884B2
A solution of 195 mg of methyl (3SR,4RS)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate, 2 cm3 of dioxane and 0.9 cm3 of a 1 N aqueous sodium hydroxide solution was heated, with stirring, at a temperature in the region of 60° C. for 1 hour. After concentrating the reaction mixture under reduced pressure (5 kPa) at a temperature in the region of 40° C., the residue obtained was taken up in 20 cm3 of water and 10 cm3 of ether. The aqueous phase was separated after settling out and then acidified by adding 0.9 cm3 of 1 N hydrochloric acid. The precipitate formed was dissolved with 20 cm3 of dichloromethane. The organic phase was washed twice with 10 cm3 of a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered, concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. The product obtained was then stirred in 20 cm3 of acetone. A solution of 2 cm3 of 4 N hydrochloric acid in dioxane was poured over this solution. The reaction mixture was concentrated under reduced pressure (5 kPa) at a temperature in the region of 40° C. and then 5 cm3 of acetone were added. This operation was repeated 4 times. 155 mg of (3SR,4RS)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetic acid hydrochloride were obtained in the form of a solid which was off-white in color.

reactant | methyl (3SR,4RS)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetate | 195 mg | FC=1C=NC2=CC=C(C=C2C1CCCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)OC)OC | C27H33FN2O3S2
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
reactant | dichloromethane | 20 cm3 | ClCCl | CH2Cl2
reactant | hydrochloric acid | 4 N, 2 cm3 | Cl | ClH
solvent | water | 20 cm3 | O | H2O
solvent | ether | 10 cm3 | CCOCC | C4H10O
solvent | acetone | 20 cm3 | CC(=O)C | C3H6O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 cm3 | O1CCOCC1 | C4H8O2
product | (3SR,4RS)-4-[3-(3-fluoro-6-methoxyquinolin-4-yl)propyl]-1-[2-(2-thienylthio)ethyl]piperidine-3-acetic acid hydrochloride | 155 mg | Cl.FC=1C=NC2=CC=C(C=C2C1CCCC1C(CN(CC1)CCSC=1SC=CC1)CC(=O)O)OC | InChI=1S/C26H31FN2O3S2.ClH/c1-32-20-7-8-24-22(15-20)21(23(27)16-28-24)5-2-4-18-9-10-29(17-19(18)14-25(30)31)11-13-34-26-6-3-12-33-26;/h3,6-8,12,15-16,18-19H,2,4-5,9-11,13-14,17H2,1H3,(H,30,31);1H
